US09334244B2
Step 4: 5-(6-(4-(isopropylsulfonyl)phenyl)pyrazin-2-yl)-3-phenylisoxazole
Et3N (27.56 mg, 37.96 μL, 0.2724 mmol) was added to a stirred solution of 2-ethynyl-6-(4-isopropylsulfonylphenyl)pyrazine (65 mg, 0.2270 mmol) and N-hydroxybenzimidoyl chloride (35.32 mg, 0.2270 mmol) in DMF (2 mL) and the reaction was stirred at ambient temperature for 45 minutes then heated to 65° C. for 1 hour. The mixture was cooled to ambient temperature and diluted with EtOAc and water and the layers separated. The aqueous layer was extracted with EtOAc (×2) and the combined organic extracts washed with water (×3), brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion™, 12 g column, eluting with 0 to 40% EtOAc/Petroleum Ether) and the relevant fractions concentrated in vacuo. The residue was triturated from methanol and the precipitate isolated by filtration to give the title product as a cream solid (30 mg, 33% Yield). 1H NMR (400.0 MHz, DMSO) H NMR (400.0 MHz, DMSO) d 9.53 (s, 1H), 9.32 (s, 1H), 8.58 (d, 2H), 8.09-8.07 (m, 3H), 8.04-8.02 (m, 2H), 7.61-7.57 (m, 3H), 3.55 (sept, 1H) and 1.21 (d, 6H) ppm; MS (ES+) 406.1; LCMS Retention time 1.72 min.

reactant | Et3N | 0.2724 mmol, 37.96 μL, 27.56 mg | CCN(CC)CC | C6H15N
reactant | 2-ethynyl-6-(4-isopropylsulfonylphenyl)pyrazine | 0.2270 mmol, 65 mg | C(#C)C1=NC(=CN=C1)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C15H14N2O2S
reactant | N-hydroxybenzimidoyl chloride | 0.2270 mmol, 35.32 mg | ON=C(C1=CC=CC=C1)Cl | C7H6ClNO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-(6-(4-(isopropylsulfonyl)phenyl)pyrazin-2-yl)-3-phenylisoxazole | 30 mg, 33% Yield | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C1=CN=CC(=N1)C1=CC(=NO1)C1=CC=CC=C1 | C22H19N3O3S
